US07592453B2
Methyl 4-formyl-3-methoxybenzoate
To a solution of methyl 4-(bromomethyl)-3-methoxybenzoate (3.00 g, 11.6 mmol) in dimethyl sulfoxide (16 ml) was added sodium hydrogen carbonate (1.00 g, 13.6 mmol), and the mixture was stirred at 50° C. for 3 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous MgSO4 and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (1:0-7:3, v/v) to give the title compound (870 mg, 39%) as a colorless oil.

reactant | methyl 4-(bromomethyl)-3-methoxybenzoate | 11.6 mmol, 3.00 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | sodium hydrogen carbonate | 13.6 mmol, 1.00 g | C(O)([O-])=O.[Na+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 16 ml | CS(=O)C | C2H6OS
product | Methyl 4-formyl-3-methoxybenzoate | 870 mg, 39% | C(=O)C1=C(C=C(C(=O)OC)C=C1)OC | C10H10O4
